* Library of Miscellaneous Analog Models

*  Copyright OrCAD, Inc. 1998 All Rights Reserved.

* $Revision:   1.3  $
* $Author:   RPEREZ  $
* $Date:   17 Apr 1998 10:24:28  $

*---------------------------------------------------------------------------
*
* OrCAD Incorporated would like to acknowledge Sandia National Laboratories
* for the contribution of their measurement-based model included in this 
* library.

*----------------------------------------------------------------------------

*$
*-----------------------------------------------------------------------------
* Example uses:
*   - voltage-controlled capacitor ...	use "variable admittance"
*   - voltage-controlled inductor ...	use "variable impedance"

* Variable admittance: Yout = Yref * V
*           control input: voltage
*           |  reference capacitor/conductance (connect other lead to ground)
*          / \ |  output: floating admittance
*          + - | / \
.subckt yx 1 2 3 4 5
  ecopy  3 6 poly(2) (1,2) (4,5) 0 0 0 0 1
  fout   4 5 vsense 1
  rin    1 2 1G
  vsense 0 6 0
.ends

*$
* End of yx model


* Variable impedance: Zout = Zref * V
*           control input: voltage
*           |  reference inductor/resistor (connect other lead to ground)
*          / \ |  output: floating impedance
*          + - | / \
.subckt zx 1 2 3 4 5
  eout   4 6 poly(2) (1,2) (3,0) 0 0 0 0 1
  fcopy  0 3 vsense 1
  rin    1 2 1G
  vsense 6 5 0
.ends

*$
* End of zx model


*-----------------------------------------------------------------------------
*.model CA3600E
*14-pin DIP: pin#1  #2  #3  #4  #5  #6  #7  #8  #9  #10 #11 #12 #13 #14
*                |   |   |   |   |   |   |   |   |   |   |   |   |   |
.subckt CA3600E p01 p02 p03 p04 p05 p06 p07 p08 p09 p10 p11 p12 p13 p14
*		RCA		pid=CA3600
*		89-07-21 pwt

* The RCA data sheet was used for this model.

* BE SURE to keep pin #14 at the most positive potential w.r.t any other pin!
* BE SURE to keep pin # 7 at the most negative potential w.r.t any other pin!

  m_N1 p08   6 p07 p07 nch	; device N1
  m_N2 p05   3 p04 p07 nch	; device N2
  m_N3 p12  10 p09 p07 nch	; device N3

  m_P1 p13   6 p14 p14 pch	; device P1
  m_P2 p01   3 p02 p14 pch	; device P2
  m_P3 p12  10 p11 p14 pch	; device P3

* Input protection circuits from Fig. 34

  rx03 p03   3 r_zap 1		; input protection on pin #3
  dx3p p03 p14 d_zap
  di3p   3 p14 d_zap
  di3n p07   3 d_zap

  rx06 p06   6 r_zap 1		; input protection on pin #6
  dx6p p06 p14 d_zap
  di6p   6 p14 d_zap
  di6n p07   6 d_zap

  rx10 p10  10 r_zap 1		; input protection on pin #10
  dx1p p10 p14 d_zap
  di1p  10 p14 d_zap
  di1n p07  10 d_zap

  d1 p07 p14 d_body		; supply protection diode (D5 in Fig. 34)

* MOS characteristics derived as follows:
*
*	Id vs Vgs from Fig. 3 and 6 (using Parts as an aid)
*
*	output capacitance hand adjusted using simulations
*
*	Miller capacitance and output impedance hand adjusted using
*	simulations to match Fig. 10 and 11

.model nch nmos(Level=1 Tox=300n Uo=600 Kp=20.54u W=144u L=8u Vto= 1.3
+		Lambda=15m Cbd=4p Cbs=4p Cgdo=1.7n Cgso=1.7n Rs=1 Rd=1)
.model pch pmos(Level=1 Tox=300n Uo=300 Kp=10.32u W=328u L=8u Vto=-1.5
+		Lambda=15m Cbd=8p Cbs=8p Cgdo=1.7n Cgso=1.7n Rs=1 Rd=1)
.model r_zap  res(r=1.73K)
.model d_zap  D(Is= 1p Rs=1 N=1 Xti=3 Eg=1.11 Cjo=.01p M=0 Bv=20 Ibv=.1u)
.model d_body D(Is=15n Rs=1 N=1 Xti=3 Eg=1.11 Cjo=10p M=.5 Vj=.75
+		Fc=.5 Isr=.15n Nr=2 Bv=20 Ibv=100u)
.ends

*$
*End of CA3600E model


*SPICE 2G.6 Compatible
*
* GENERIC FUNCTIONAL EQUIVALENT = 54C14  
* MANUFACTURERS PART NO. = MM54C14J  
* TYPE: IC_LINEAR  
* SUBTYPE: SCHMITT  
* THIS IS A PRE-RAD MODEL AT 27 C OF THE MM54HC14.   
* CREATION DATE: NOV. 15, 1984  
*
.SUBCKT 54HC14/ANLG 1  2  3  4  5  6   7  8  9  10 11 12 13 14  
*             NODES A1 Y1 A2 Y2 A3 Y3 GND Y4 A4 Y5 A5 Y6 A6 VCC  
X1 1 2 14 7 STRIG  
X2 2 3 14 7 STRIG  
X3 5 6 14 7 STRIG  
X4 9 8 14 7 STRIG  
X5 11 10 14 7 STRIG  
X6 13 12 14 7 STRIG  
D1 7 14 GNDVCC  
.MODEL GNDVCC D (
+         IS = 20.9E-12
+         RS = 0
+          N = 1
+         TT = 0
+        CJO = 56.PF
+         VJ = 1
+          M = .5
+         EG = 1.11
+        XTI = 3
+         KF = 0
+         AF = 1
+         FC = .5
+         BV = 9.9999E+13
+        IBV = .001
+ )
.ENDS 54HC14/ANLG
.SUBCKT STRIG 1  2   4   3  
*      NODES IN OUT VCC GND  
M1 4 11 5 4 MM54HCP L=3.5U W=248.5U AD=2.98N AS=2.98N  
M2 5 6 3 4 MM54HCP L=3.5U W=303U AD=3.64N AS=3.64N  
M5 5 11 6 4 MM54HCP L=3.5U W=372.7U AD=4.47N AS=4.47N  
M4 6 11 7 3 MM54HCN L=3.5U W=200U AD=2.4N AS=2.4N  
M3 7 11 3 3 MM54HCN L=3.5U W=133.3U AD=1.6N AS=1.6N  
M6 4 6 7 3 MM54HCN L=3.5U W=79.5U AD=.954N AS=.954N  
M7 4 6 8 4 MM54HCP L=3.5U W=698.5U AD=8.38N AS=8.38N  
M8 8 6 3 3 MM54HCN L=3.5U W=292.3U AD=3.51N AS=3.51N  
M9 4 8 2 4 MM54HCP L=3.5U W=2207.7U AD=26.5N AS=26.5N  
M10 2 8 3 3 MM54HCN L=3.5U W=946.2U AD=11.4N AS=11.4N  
D1 9 4 INVCC  
D2 3 9 GNDIN  
D3 2 4 OUTVCC  
D4 3 2 GNDOUT  
R1 5 3 1MEG  
R2 7 3 1MEG  
R3 6 3 1MEG  
R4 8 3 1MEG  
R5 1 9 111  
R6 9 11 38  
.MODEL MM54HCP PMOS       (
+      LEVEL = 1
+        VTO = -.6
+         KP = 10.1E-6
+      GAMMA = 0
+        PHI = .6
+     LAMBDA = .015
+         RD = 5.
+         RS = 5.
+        CBD = 0
+        CBS = 0
+         IS = 1E-14
+         PB = .8
+       CGSO = 1.57E-9
+       CGDO = 7.84E-10
+       CGBO = 0
+        RSH = 0
+         CJ = 9.68E-5
+         MJ = .5
+       CJSW = 0
+       MJSW = .33
+         JS = 1.37E-4
+        TOX = .0000001
+        NSS = 0
+        NFS = 0
+        TPG = 1
+         XJ = 0
+         LD = 0
+         UO = 600
+      UCRIT = 10000
+       UEXP = 0
+       UTRA = 0
+       VMAX = 0
+       NEFF = 1
+        XQC = 1
+         KF = 0
+         AF = 1
+         FC = .5
+      DELTA = 0
+      THETA = 0
+        ETA = 0
+      KAPPA = .2
+ )
.MODEL MM54HCN NMOS       (
+      LEVEL = 1
+        VTO = .375
+         KP = 19.5E-6
+      GAMMA = 0
+        PHI = .6
+     LAMBDA = .00005
+         RD = 3.5
+         RS = 3.5
+        CBD = 0
+        CBS = 0
+         IS = 1E-14
+         PB = .8
+       CGSO = 1.57E-9
+       CGDO = 7.84E-10
+       CGBO = 0
+        RSH = 0
+         CJ = 3.06E-4
+         MJ = .5
+       CJSW = 0
+       MJSW = .33
+         JS = 3.41E-3
+        TOX = .0000001
+        NSS = 0
+        NFS = 0
+        TPG = 1
+         XJ = 0
+         LD = 0
+         UO = 600
+      UCRIT = 10000
+       UEXP = 0
+       UTRA = 0
+       VMAX = 0
+       NEFF = 1
+        XQC = 1
+         KF = 0
+         AF = 1
+         FC = .5
+      DELTA = 0
+      THETA = 0
+        ETA = 0
+      KAPPA = .2
+ )
.MODEL INVCC D (
+         IS = .488E-15
+         RS = 5.
+          N = 1
+         TT = 0
+        CJO = .36PF
+         VJ = 1
+          M = .5
+         EG = 1.11
+        XTI = 3
+         KF = 0
+         AF = 1
+         FC = .5
+         BV = 9.9999E+13
+        IBV = .001
+ )
.MODEL GNDIN D (
+         IS = 3.88E-15
+         RS = 3.5
+          N = 1
+         TT = 0
+        CJO = 1.13PF
+         VJ = 1
+          M = .5
+         EG = 1.11
+        XTI = 3
+         KF = 0
+         AF = 1
+         FC = .5
+         BV = 9.9999E+13
+        IBV = .001
+ )
.MODEL OUTVCC D (
+         IS = 1.06E-12
+         RS = 5.
+          N = 1
+         TT = 0
+        CJO = 2.56PF
+         VJ = 1
+          M = .5
+         EG = 1.11
+        XTI = 3
+         KF = 0
+         AF = 1
+         FC = .5
+         BV = 9.9999E+13
+        IBV = .001
+ )
.MODEL GNDOUT D (
+         IS = 11.3E-12
+         RS = 3.5
+          N = 1
+         TT = 0
+        CJO = 3.47PF
+         VJ = 1
+          M = .5
+         EG = 1.11
+        XTI = 3
+         KF = 0
+         AF = 1
+         FC = .5
+         BV = 9.9999E+13
+        IBV = .001
+ )
.ENDS STRIG  
*$
*End of 54HC14/ANLG model


.SUBCKT 555C GND TRIGGERbar OUTPUT RESETbar CONTROL THRESHOLD DISCHARGE VCC 
* 
* CMOS 555 TIMER
*
R_R1     CONTROL VCC 150K 
R_R2     2 CONTROL 150K 
R_R3     GND 2 150K 
E_EMIR   VDD GND VCC GND 1
M_M1     DISCHARGE 1 GND GND NCHAN555 L=2U W=1000U
E_EVAL   1 GND 13 GND 1
R_U6_R1  TRIGGERbar 2 1000G 
R_U6_R2  TRIGGERbar 2 1000G 
E_U6_E1CMP  3 GND 2 TRIGGERbar 10K
R_U6_R3  3 23 10MEG 
R_U6_R4  GND 23 10MEG 
D_U6_D2CLMP  23 4 DIODE 
D_U6_D1CLMP  GND 5 DIODE 
V_U6_V2  23 5 dc 0.8V  
E_U6_E1  4 GND POLY(1) VDD GND -0.8 1
R_U7_R1  CONTROL THRESHOLD 1000G 
R_U7_R2  CONTROL THRESHOLD 1000G 
E_U7_E1CMP  6 GND THRESHOLD CONTROL 10K
R_U7_R3  6 21 10MEG 
R_U7_R4  GND 21 10MEG 
D_U7_D2CLMP  21 7 DIODE 
D_U7_D1CLMP  GND 8 DIODE 
V_U7_V2  21 8 dc 0.8V  
E_U7_E1  7 GND POLY(1) VDD GND -0.8 1
M_U2_U1_M4  9 OUTPUT GND GND NCHAN555 L=2U W=1000U
M_U2_U1_M3  9 17 GND GND NCHAN555 L=2U W=1000U
M_U2_U1_M6  10 9 GND GND NCHAN555 L=2U W=300U
M_U2_U1_M8  13 10 GND GND NCHAN555 L=2U W=250U 
M_U2_U1_M1  11 OUTPUT VDD VDD PCHAN555 L=2U W=1000U
M_U2_U1_M2  9 17 11 11 PCHAN555 L=2U W=1000U
M_U2_U1_M5  10 9 VDD VDD PCHAN555 L=2U W=300U
M_U2_U1_M7  13 10 VDD VDD PCHAN555_OUT L=2U W=350U
M_U2_U2_M4  12 18 GND GND NCHAN555 L=2U W=1000U
M_U2_U2_M3  12 13 GND GND NCHAN555 L=2U W=1000U
M_U2_U2_M6  14 12 GND GND NCHAN555 L=2U W=300U
M_U2_U2_M8  OUTPUT 14 GND GND NCHAN555 L=2U W=250U 
M_U2_U2_M1  15 18 VDD VDD PCHAN555 L=2U W=1000U
M_U2_U2_M2  12 13 15 15 PCHAN555 L=2U W=1000U
M_U2_U2_M5  14 12 VDD VDD PCHAN555 L=2U W=300U
M_U2_U2_M7  OUTPUT 14 VDD VDD PCHAN555_OUT L=2U W=350U
M_U2_U3_M1  16 25 VDD VDD PCHAN555 L=2U W=1000U
M_U2_U3_M2  17 24 16 16 PCHAN555 L=2U W=1000U
M_U2_U3_M3  17 24 GND GND NCHAN555 L=2U W=1000U
M_U2_U3_M4  17 25 GND GND NCHAN555 L=2U W=1000U
M_U2_U4_M1  18 20 VDD VDD PCHAN555 L=2U W=2U
M_U2_U4_M2  18 RESETbar VDD VDD PCHAN555 L=2U W=2U
M_U2_U4_M3  18 20 19 19 NCHAN555 L=2U W=1000U
M_U2_U4_M4  19 RESETbar GND GND NCHAN555 L=2U W=1000U
M_U2_U5_M1  20 24 VDD VDD PCHAN555 L=2U W=2U
M_U2_U5_M2  20 21 VDD VDD PCHAN555 L=2U W=2U
M_U2_U5_M3  20 24 22 22 NCHAN555 L=2U W=1000U
M_U2_U5_M4  22 21 GND GND NCHAN555 L=2U W=1000U
M_U2_U6_M2  24 23 GND GND NCHAN555 L=2U W=1000U
M_U2_U6_M3  24 23 VDD VDD PCHAN555 L=2U W=2U
M_U2_U7_M2  25 RESETbar GND GND NCHAN555 L=2U W=1000U
M_U2_U7_M3  25 RESETbar VDD VDD PCHAN555 L=2U W=2U
R_U2_R1  RESETbar GND 250G 
J_J1     VCC GND GND JNEMOD 
R_R6     GND VCC 192K 
*
.MODEL DIODE D RS=0.01
.MODEL PCHAN555 PMOS CGBO=1P CGDO=1P CGSO=1P VTO=-0.2
.MODEL NCHAN555 NMOS CGBO=1P CGDO=1P CGSO=1P VTO=0.2
.MODEL PCHAN555_OUT PMOS CGBO=1P CGDO=1P CGSO=1P VTO=-0.2 CBD=200P
.MODEL JNEMOD NJF VTO=-2.5 BETA=5.12U
.ENDS    555C
*
*|* CMOS 555 TIMER CONNECTED IN ASTABLE OPERATION
*|.LIB MISC.LIB
*|.PARAM CVAL=20N
*|VRST 4 0 PULSE(1 0 700U 1U 1U 400U 1)
*|C2 3 0 10P
*|VCC 8 0 5
*|RA 8 7 4700
*|RB 7 6 2200
*|C1 6 0 {CVAL}
*|X1 0 6 3 4 5 6 7 8 555C
*|CTRL 5 0 10P
*|.IC V(6)=0
*|.TRAN 10U 800U
*|.PROBE
*|.END

*$
* This model is for the old bipolar 555 supplied by National
* Semi Lm555, it is essentially the data schematic entered
* with some manipulation of the bipolar parameters to correct 
* drive capability and timing. The max frequency of 100k as 
* hinted at by Nat Semi is maintained but does conflict with 
* the trigger propagation delay. It would seem that the real part
* is capable of higher freqs. The high current transients with 
* change of output are seen with this model.
.subckt 555b 1 2 3 4 5 6 7 8
  q_q2     18 31 32  qnpn555 
  q_q1     18 6 31  qnpn555 
  q_q4     17 5 30  qnpn555 
  q_q3     17 30 32  qnpn555 
  q_q5d    15 18 8  qpnp555 
  q_q5     18 18 8  qpnp555 
  q_q6d    16 17 8  qpnp555 
  q_q6     17 17 8  qpnp555 
  q_q11    19 9 20  qpnp555 
  q_q9     22 24 19  qpnp555 
  q_q10    1 25 24  qpnp555 
  q_q8     21 23 19  qpnp555 
  q_q7     1 2 23  qpnp555 
  q_q12    21 22 1  qnpn555 
  q_q13    22 22 1  qnpn555 
  r_r1     20 8 1k 
  r_r3     25 5 5k 
  r_r4     1 25 5k 
  q_q16    15 16 1  qnpn555 
  q_q15    16 16 1  qnpn555 
  q_q17    14 15 13  qnpn555 
  q_q18    13 21 1  qnpn555 
  q_q19    12 13 1  qnpn555 
  q_q21    14 14 12  qnpn555 
  r_r5     5 8 5k 
  r_r6     14 9 7.5k 
  r_r8     1 32 10k 
  q_q22    9 9 8  qpnp555 
  q_q22d   10 9 8  qpnp555 
  q_q20    10 12 1  qnpn555 
  r_r10    13 10 4.7k 
  q_q23    11 10 26  qnpn555  .5
  q_q26    3 29 1  qnpn555  .5
  r_r11    27 26 100 
  r_r12    1 26 3.3k 
  r_r14    26 29 120 
  r_r15    11 8 6.2k 
  q_q27    8 11 28  qnpn555 
  q_q28    8 28 3  qnpn555 
  r_r16    3 28 3.9k 
  q_q24    1 11 3  qpnp555 
  q_q25    27 4 14  qpnp555 
  q_q14    7 27 1  qnpn555
  cslow1   15 0 40p
  cslow2   16 0 40p 
  cslow11  21 0 40p
  cslow22  22 0 40p 
.model qnpn555	npn(is=14.34f xti=3 eg=1.11 vaf=74.03 bf=65.62 ne=1.208
+		ise=19.48f ikf=20m xtb=1.5 br=9.715 nc=2 isc=0 ikr=0 rc=1
+		cjc=40p mjc=.3416 vjc=.75 fc=.5 cje=40p mje=.377 vje=.75
+		tr=58.98n tf=1n itf=.6 vtf=1.7 xtf=3 rb=10)
.model qpnp555	pnp(is=650.6e-18 xti=3 eg=1.11 vaf=115.7 bf=70.35 ne=1.829
+		ise=180.5f ikf=20m xtb=1.5 br=4.146 nc=2 isc=0 ikr=0 rc=.715
+		cjc=40p mjc=.5383 vjc=.75 fc=.5 cje=40p mje=.3357 vje=.75
+		tr=119.9n tf=1n itf=.65 vtf=5 xtf=1.7 rb=10)
.ends

*|* BIPOLAR 555 TIMER CONNECTED IN ASTABLE OPERATION
*|.LIB MISC.LIB
*|.PARAM CVAL=20N
*|VRST 4 0 PULSE(1 0 700U 1U 1U 400U 1) 
*|C2 3 0 10P
*|VCC 8 0 5
*|RA 8 7 4700
*|RB 7 6 2200
*|C1 6 0 {CVAL}
*|X1 0 6 3 4 5 6 7 8 555B
*|CTRL 5 0 10P
*|.IC V(6)=0
*|.TRAN 10U 800U
*|.PROBE
*|.END

*$
*End of 555C model


* Three phase transformer model:
*   This circuit models a (linear) three phase transformer where all three
*   windings are on a single "EI" core.  The model assumes the same number
*   of turns on the windings for each phase.  The phase asymetry of
*   transformer is controled by the Permeance_ratio parameter (a value of
*   1 gives a symetric transformer).
*
*                               Phase 1 Phase 2 Phase 3
*                               (left) (center) (right)
*                                |   |	 |   |   |   |
.SUBCKT THREE_PHASE_TRANSFORMER P11 P12 P21 P22 P31 P32  ; Primary
+                               S11 S12 S21 S22 S31 S32  ; Secondary
+ PARAMS:
+  pri_ind = 200mh	; Primary inductance (center winding)
+  V_ratio = 1		; Voltage or turns ratio (sec/pri)
+  Permeance_ratio = 1	; Ratio of Permeance_inner/Permeance_outer
*  (Permeance_ratio is the ratio of (voltage on center primary)/(voltage on right primary)
*   when the left primary is driven and all other windings are open.)
+  pri_R = .1		; Primary resistance
+  sec_R = .1		; Secondary resistance
+  K_coef = .9999	; Mutual coupling coefficient
*
* We separate each winding into two series parts.  This represents
* the two magnetic paths that each winding is part of.
*
* Phase 1 is left winding, Phase 2 is center, and Phase 3 is right
*
* Magnetic Loop 'a': left inner loop
*
LP1a P1a P1c {pri_ind/2}
LP2a P2b P2a {pri_ind/2}
LS1a S1a S1c {pri_ind*V_ratio*V_ratio/2}
LS2a S2b S2a {pri_ind*V_ratio*V_ratio/2}
Ka LP1a LP2a LS1a LS2a {K_coef}
*
* Magnetic Loop 'b': right inner loop
*
LP2b P22 P2b {pri_ind/2}
LP3b P3b P3c {pri_ind/2}
LS2b S22 S2b {pri_ind*V_ratio*V_ratio/2}
LS3b S3b S3c {pri_ind*V_ratio*V_ratio/2}
Kb LP2b LP3b LS2b LS3b {K_coef}
*
* Magnetic Loop 'c': the outer loop
*
LP1c P1c P12 {pri_ind/(2*Permeance_ratio)}
LP3c P32 P3c {pri_ind/(2*Permeance_ratio)}
LS1c S1c S12 {pri_ind*V_ratio*V_ratio/(2*Permeance_ratio)}
LS3c S32 S3c {pri_ind*V_ratio*V_ratio/(2*Permeance_ratio)}
Kc LP1c LP3c LS1c LS3c {K_coef}
*
* Winding Resistances
*
RP1 P1a P11 {pri_R}
RS1 S1a S11 {sec_R}
RP2 P2a P21 {pri_R}
RS2 S2a S21 {sec_R}
RP3 P3b P31 {pri_R}
RS3 S3b S31 {sec_R}
*
.ENDS
* Three phase transformer test circuit
*
* A simple test circuit
*
*X1 P1 0 P2 0 P3 0 S1 0 S2 0 S3 0 THREE_PHASE_TRANSFORMER
*+ PARAMS: pri_ind=100mh V_ratio=0.0477 Permeance_ratio=5
*
*Vin P1 0 sin(0 155 60 0 0 0deg) 
*
*.param RPL1=1MEG
*.param RPL2=1MEG
*.param RPL3=1MEG
*.param RSL1=1MEG
*.param RSL2=1MEG
*.param RSL3=1MEG
*
*RPL1 P1 0 {RPL1}
*RPL2 P2 0 {RPL2}
*RPL3 P3 0 {RPL3}
*RSL1 S1 0 {RSL1}
*RSL2 S2 0 {RSL2}
*RSL3 S3 0 {RSL3}
*
*.step param RPL2 LIST 1MEG  1
*
*.tran 1ms 60ms 0 .4ms
*.probe
*.end

*$
*End of THREE_PHASE_TRANSFORMER


* Relay models:
*  Both physical and behavioral models are provided.  In almost all situations
*  the behavioral models should be used: They are much faster to simulate, and
*  normally provide more realistic results. (See application notes for more
*  discussion of relay models.)
*
*
* Physical model of relay electro-mechanical system
*
* Note: This model is derived from the Application Note "Modeling an
*       Electro-Mechanical Device".  It has been updated to use new
*       functions available for expressions.  Also, the RELAY_SPDT_PHY_MSRD
*       subcircuit uses equations to calculate
*       values for the physical parameters from measured relay behavior.
*
* These subcircuits models the entire electro-mechanical system, and because
* of this it takes a while to simulate.  If all you are interested in is the
* electrical behavior of the relay see the RELAY_SPDT_BHV and RELAY_SPDT_BHV_BOUNCE
* models which follow.
*
.subckt RELAY_SPDT_PHY coila coilb no nc com
+ PARAMS:
+  R_coil = 10    ; Coil resistance
+  L_coil = 5mH	  ; Coil inductance
+  R_open = 100MEG; contact open resistance
+  R_close= 0.05  ; contact closed resistance
+  turns  = 100	  ; number of turns on coil
+  arm_mass = .5  ; Contact arm mass (moment)
+  spr    = 40	  ; contact arm spring force
+  minP   = 1	  ; Minimum permeance (when arm is away from coil)
+  maxP   = 5	  ; Maximum permeance (when arm is close to coil)
+  drag   = 1	  ; air and other contact arm drag
+  lim_K  = 1e6	  ; limit spring rate
+  damping= 1e3	  ; limit damping rate

* electrical model of coil
v_winding coila  a1     0
r_winding a1     a2     {R_coil}
l_winding a2     coilb  {L_coil}

* forces on contact arm
g_mag v0 vel value = {0.5*pwr(table(v(dis), 0,minP, 1,maxP)*turns*i(v_winding),2)*(maxP-minP)}
g_drg vel v0 value = {drag*v(vel)}
g_lim vel v0 value = {(v(dis)-limit(v(dis),0,1))*lim_K}
g_dmp vel v0 value = {table(v(dis),-0.001,1, 0,0, 1,0, 1.001,1)*v(vel)*damping}
i_spr vel 0 {spr}
l_dum v0  0  10mh ; dummy series inductor to help PSpice pick a good timestep size

* Integrate the force to velocity
c_vel vel 0 {arm_mass}
r_vel vel 0 1G

* Integrate the velocity to distance
g_dis 0 dis value = {v(vel)}
c_dis dis 0 1
r_dis dis 0 1G

* model the switch contacts
s1 no com dis 0 smod_no
s2 nc com dis 0 smod_nc
.model smod_no vswitch(von=1 voff=0.99 ron={R_close} roff={R_open})
.model smod_nc vswitch(von=0 voff=0.01 ron={R_close} roff={R_open})

.ends


* To calculate values for the physical model you can use the following
* subcircuit. 

.subckt RELAY_SPDT_PHY_MSRD coila coilb no nc com
+ PARAMS:
+ T_drop = 150mSec ; Time for contacts to drop when current is turned off
+ I_pull = 50ma    ; Pull-in current
+ I_drop = 10ma    ; Drop-out current
+ R_coil = 10      ; Coil resistance
+ L_coil = 5mH     ; Coil inductance
*
* Calculate the Physical parameters, then call the physical model with these
* values.
*
.PARAM  turns  = 100	       ; not really important, factors out of equations
.PARAM  arm_mass = .5         ; also factors out
.PARAM  spr    = {2*arm_mass/(T_drop*T_drop)}
.PARAM  minP   = {pwr((2*spr)/(turns*turns*I_pull*I_pull*((I_pull-I_drop)/I_drop)),1/3)}
.PARAM  maxP   = {minP*(1+((I_pull-I_drop)/I_drop))}
.PARAM  drag   = {.1*spr*T_drop} ; linear drag durring all contact motion (small)
.PARAM  lim_K  = {spr*3e4}   ; Limit stop spring constant -- must be alot bigger than spring
.PARAM  damping= {lim_K/1e4} ; Damping rate: smaller makes more bounces

x1 coila coilb no nc com RELAY_SPDT_PHY
+ PARAMS:
+  R_coil  = {R_coil}    ; Coil resistance
+  L_coil  = {L_coil}    ; Coil inductance
+  turns   = {turns}     ; number of turns on coil
+  arm_mass= {arm_mass}  ; Contact arm mass (moment)
+  spr     = {spr}       ; contact arm spring force
+  minP    = {minP}      ; Minimum permeance (when arm is away from coil)
+  maxP    = {maxP}      ; Maximum permeance (when arm is close to coil)
+  drag    = {drag}      ; air and other contact arm drag
+  lim_K   = {lim_K}     ; limit spring rate
+  damping = {damping}   ; limit damping rate

.ends

*$
*End of RELAY_SPDT_PHY


* Time Dependent Switch Models
*$
* For DC and AC analyses, the switch will be Open.
.SUBCKT  Sw_tClose  1  2  PARAMS: 
+ tClose=0     ; time at which switch begins to close
+ ttran=1u     ; time required to switch states (must be realistic, not 0)
+ Rclosed=0.01 ; Closed state resistance
+ Ropen=1Meg   ; Open state resistance (Ropen/Rclosed < 1E10)
V1 3 0 pulse(0 1 {tClose} {ttran} 1 10k 11k)
S1 1 2 3 0 Smod
.model Smod Vswitch(Ron={Rclosed} Roff={Ropen})
.ends

*$
*End of Sw_tClose model


* For DC and AC analyses, the switch will be Closed.
.SUBCKT  Sw_tOpen   1  2  PARAMS: 
+ tOpen=0      ; time at which switch begins to open
+ ttran=1u     ; time required to switch states (must be realistic, not 0)
+ Rclosed=0.01 ; Closed state resistance
+ Ropen=1Meg   ; Open state resistance (Ropen/Rclosed < 1E10)
V1 3 0 pulse(1 0 {tOpen} {ttran} 1 10k 11k)
S1 1 2 3 0 Smod
.model Smod Vswitch(Ron={Rclosed} Roff={Ropen})
.ends

*$

* end of time dependent switch models

* end of library

